US07829715B2
In a mixture of 10 ml of toluene and 0.5 ml of DMF and in the presence of 0.21 g of sodium ethoxide, 1.00 g of ethyl (R)-quinuclidin-3-yl carbonate and 1.05 g of (S)-1-phenyl-1,2,3,4-tetrahydroisoquinoline were stirred for 7 hours while evaporating the solvent, 20 ml of toluene and 20 ml of water were added thereto, and the thus obtained organic layer was washed with 20 ml of water and then mixed with 15 ml of 1 M hydrochloric acid aqueous solution. A 30 ml portion of EtOAc and 1 M sodium hydroxide aqueous solution were added to the obtained water layer. The thus obtained organic layer was dried with sodium sulfate, concentrated under a reduced pressure and then dried, and the thus obtained solid was purified by a silica gel column chromatography to obtain 0.22 g of solifenacin.

reactant | sodium ethoxide | 0.21 g | [O-]CC.[Na+]
reactant | ethyl (R)-quinuclidin-3-yl carbonate | 1.00 g | C(OCC)(O[C@H]1CN2CCC1CC2)=O | C10H17NO3
reactant | (S)-1-phenyl-1,2,3,4-tetrahydroisoquinoline | 1.05 g | C1(=CC=CC=C1)[C@@H]1NCCC2=CC=CC=C12 | C15H15N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | solifenacin | 0.22 g | C=1C=CC(=CC1)[C@H]2C=3C=CC=CC3CCN2C(=O)O[C@H]4CN5CCC4CC5 | C23H26N2O2
